* Z:\home\daniel\workspace\studium\st\praktikum\schaltungstechnik\active_filter\doc\1kHz-Tiefpass.asc
R1 N001 INPUT 47k
R2 N002 N001 820k
C1 N001 OUTPUT 2.2n
C2 N002 0 220p
R3 N004 0 3.3k
V3 INPUT 0 0 AC 1
R4 OUTPUT N003 {100k*(1-a)}
R5 N003 N004 {100k*a}
XU1 N002 N003 VCC -VCC OUTPUT ADA4000
V1 VCC 0 10 AC 0
V2 0 -VCC 10 AC 0
.ac dec 100 1 20k
.step param a list 0.99 0.7 0.5 0.3 0.1
.lib ADI.lib
.backanno
.end
